US07462617B2
(2-Chloro-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
The title compound was prepared according to the procedure E described for example 9 from 1-(4-trifluromethylphenyl)piperazine (ABCR F07741NB, [30459-17-7] and 2-chloro-5-(methylsulfonyl)-benzoic acid (CAS: 89938-62-5); MS (m/e): 464.3 (M+NH4+).

reactant | 1-(4-trifluromethylphenyl)piperazine | FC(C1=CC=C(C=C1)N1CCNCC1)(F)F | C11H13F3N2
reactant | 2-chloro-5-(methylsulfonyl)-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
product | (2-Chloro-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | ClC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18ClF3N2O3S
